US08791255B2
The product is prepared according to the procedure described in example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 303 mg of 2-(2-piperidin-1-ylethoxy)phenylamine and 300 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 2 ml of pyridine and 2 ml of dimethylformamide. 255 mg of 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-{2-[2-(piperidin-1-yl)ethoxy]phenyl}acetamide are obtained in the form of a beige solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-(2-piperidin-1-ylethoxy)phenylamine | 303 mg | N1(CCCCC1)CCOC1=C(C=CC=C1)N | C13H20N2O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 300 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-{2-[2-(piperidin-1-yl)ethoxy]phenyl}acetamide | 255 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC1=C(C=CC=C1)OCCN1CCCCC1 | C23H31N5O4
